US06521643B1
To a stirred solution of 4-isopropyloxy-2-methylpyridine (687 mg) in tetrahydrofuran (7 ml) was added a solution of n-butyllithium in n-hexane (1.63M, 3.34 ml) dropwise at −50° C. under a nitrogen atmosphere, and the mixture was warmed to 0° C. The mixture was cooled to −50° C., and N,N-dimethylacetamide (0.549 ml) was added dropwise. Then the mixture was warmed to room temperature, poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate (100 ml). The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, 25% ethyl acetate in n-hexane) to give 1-(4-isopropyloxypyridin-2-yl)-propan-2-one (652 mg).

reactant | 4-isopropyloxy-2-methylpyridine | 687 mg | C(C)(C)OC1=CC(=NC=C1)C | C9H13NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 0.549 ml | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.63M, 3.34 ml | CCCCCC | C6H14
product | 1-(4-isopropyloxypyridin-2-yl)-propan-2-one | 652 mg | C(C)(C)OC1=CC(=NC=C1)CC(C)=O | C11H15NO2
